US07268231B2
To a mixture of 4-oxo-2-(2-trifluoromethyl-benzylamino)-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester (70.4 mg, 0.18 mmol), 1,5-naphthyridine-6-carboxaldehyde (28.7 mg, 0.18 mmol) and iPrOH (5.0 mL) in a 25-mL round bottom flask was added piperidine (0.05 mL) and the suspension was then heated under refluxing for 4 hrs to give a suspension. The reaction mixture was cooled to r.t. and the solid was collected by filtration, washed with MeOH and ether. The solid was then re-crystallized from AcOEt-MeOH to give 5-[1,5]naphthyridin-2-ylmethylene-2-(2-trifluoromethybenzylamino)-1,5-dihydro-imidazol-4-one as a light yellow crystalline material (11.6 mg, 16.2%). HR-ES (+) m/e calcd. for C20H14F3N5O: (M+H)+ 398.1223. Found: 398.1222.

reactant | 4-oxo-2-(2-trifluoromethyl-benzylamino)-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 0.18 mmol, 70.4 mg | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=O)NCC1=C(C=CC=C1)C(F)(F)F | C19H16F3N3O3
reactant | 1,5-naphthyridine-6-carboxaldehyde | 0.18 mmol, 28.7 mg | N1=CC=CC2=NC(=CC=C12)C=O | C9H6N2O
reactant | piperidine | 0.05 mL | N1CCCCC1 | C5H11N
solvent | iPrOH | 5.0 mL | CC(C)O | C3H8O
product | 5-[1,5]naphthyridin-2-ylmethylene-2-(2-trifluoromethybenzylamino)-1,5-dihydro-imidazol-4-one | N1=C(C=CC2=NC=CC=C12)C=C1C(N=C(N1)NCC1=C(C=CC=C1)C(F)(F)F)=O | C20H14F3N5O
